### PR TITLE
[Merged by Bors] - feat(CategoryTheory): initial object implies corepresentable

### PR DESCRIPTION
**Pull request by emilyriehl**
If the category of elements of a covariant functor has an initial object, then the functor is corepresentable.

---

Last September I developed an autoformalization test to prove the theorem stated above and its converse, which is now in Mathlib, but was missing at the time. I used this to test AlphaProof, Gauss, and Harmonic.

Now that this benchmark is easily saturated, the full result should appear in mathlib. The formalization I have here was originally done by hand but was golfed by the models, I believe in this instance by Gauss. (My formalization was decomposed through a series of conceptual steps, while Gauss instead just proved the theorem directly without using the Yoneda lemma for instance.)

In my version, which uses lean4:v4.25.0-rc2, I have a proof also of the dual result, which breaks here with an error message I do not understand. I pushed this in the initial commit here and will reproduce the code below for discussion.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by emilyriehl** [comment]
On an older version of Lean, this proves the dual result, but it fails here (see the `sorry`) with an error message I do not understand.
```
/-- An initial object in the category `F.Elements` of a contravariant functor defines a
representation for that functor. -/
def RepresentableBy.ofIsInitial {F : Cᵒᵖ ⥤ Type v} (E : Elements F) (he : IsInitial E) :
    RepresentableBy F (E.fst.unop) where
      homEquiv := by
        intro Y
        refine {
          toFun f := F.map f.op E.snd
          invFun y := (he.to ⟨op Y, y⟩).1.unop
          left_inv f := by
            simp only [op_unop]
            have := he.hom_ext (he.to ⟨op Y, F.map f.op E.snd⟩) ⟨f.op, rfl⟩
            rw [this, Quiver.Hom.unop_op]
          right_inv y := (he.to ⟨op Y, y⟩).2
        }
      homEquiv_comp := by
        intro Y Y' g f
        simp only [Equiv.coe_fn_mk, op_unop, Functor.map_comp_apply]
        sorry

instance (F : Cᵒᵖ ⥤ Type v) [HasInitial (Elements F)] :
    IsRepresentable F where
      has_representation :=
        ⟨(⊥_ F.Elements).fst.unop,
          (Nonempty.intro (RepresentableBy.ofIsInitial (⊥_ F.Elements) initialIsInitial))⟩

theorem isRepresentable_iff_hasInitial (F : Cᵒᵖ ⥤ Type v) :
    HasInitial (Elements F) ↔ IsCorepresentable F where
      mp _ := inferInstance
      mpr _ := inferInstance
```

**Comment by emilyriehl** [comment]
While we're discussing duals, I would actually prefer an alternate convention for the category of elements of a contravariant functor where the forgetful functor is to `C` rather than `C^op`. This matches the generally used convention in the literature.

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 1]
```diff
@@ -135,4 +131,37 @@ end Initial
...
+          toFun f := F.map f E.snd
+          invFun y := (he.to ⟨Y, y⟩).1
+          left_inv f := by
+              have := he.hom_ext (he.to ⟨Y, F.map f E.snd⟩) ⟨f, rfl⟩
+              simpa using congrArg (fun m => m.1) this
+          right_inv y := (he.to ⟨Y, y⟩).2
+        }
+      homEquiv_comp := by
+        intro Y Y' g f
+        simp only [Equiv.coe_fn_mk, Functor.map_comp_apply]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Elements.lean]:
```suggestion
      homEquiv :=
        { toFun f := F.map f E.snd
          invFun y := (he.to ⟨_, y⟩).val
          left_inv f := by
            have := Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f E.snd⟩) ⟨f, rfl⟩)
            simpa using Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f E.snd⟩) ⟨f, rfl⟩)
          right_inv y := (he.to ⟨_, y⟩).prop }
```

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 2]
```diff
@@ -135,4 +131,37 @@ end Initial
...
+
+instance (F : C ⥤ Type v) [HasInitial (Elements F)] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Elements.lean]: I am not fond of creating loops of instances. Could you make this a lemma instead?

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 3]
```diff
@@ -135,4 +131,37 @@ end Initial
 
 end CategoryOfElements
 
+namespace Functor
+
+/-- An initial object in the category `F.Elements` of a covariant functor defines a
+corepresentation for that functor. -/
+def CorepresentableBy.ofIsInitial {F : C ⥤ Type v} (E : Elements F) (he : IsInitial E) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Elements.lean]: `E` can be inferred from `he`:
```suggestion
def CorepresentableBy.ofIsInitial {F : C ⥤ Type v} {E : Elements F} (he : IsInitial E) :
```

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 4]
```diff
@@ -135,4 +131,37 @@ end Initial
...
+instance (F : C ⥤ Type v) [HasInitial (Elements F)] :
+    IsCorepresentable F where
+      has_corepresentation :=
+        ⟨(⊥_ F.Elements).fst,
+          (Nonempty.intro (CorepresentableBy.ofIsInitial (⊥_ F.Elements) initialIsInitial))⟩
+
+theorem isCorepresentable_iff_hasInitial (F : C ⥤ Type v) :
+    HasInitial (Elements F) ↔ IsCorepresentable F where
+      mp _ := inferInstance
+      mpr _ := inferInstance
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Elements.lean]:
```suggestion
  mp _ := inferInstance
  mpr _ := inferInstance
```

File: Mathlib/CategoryTheory/Limits/Elements.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Elements.lean]: It seems it would also work with a more general universe than `v`.

**Comment by robin-carlier** [comment]
Note: your dual version works with an annotation `attribute [local implicit_reducible] Quiver.Hom.op Quiver.Hom.unop`
I am making these two declaration globally implicit_reducible in #42107.

File: Mathlib/CategoryTheory/Limits/Elements.lean (hunk 2 above)
Comment (emilyriehl) [reply Mathlib/CategoryTheory/Limits/Elements.lean]: Done.

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 5]
```diff
@@ -135,4 +131,57 @@ end Initial
...
+def RepresentableBy.ofIsInitial {F : Cᵒᵖ ⥤ Type w} {E : Elements F} (he : IsInitial E) :
+    RepresentableBy F (E.fst.unop) where
+      homEquiv :=
+        { toFun f := F.map f.op E.snd
+          invFun y := (he.to ⟨_, y⟩).val.unop
+          left_inv f := by
+            have :=
+              Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f.op E.snd⟩) ⟨f.op, rfl⟩)
+            simp only [this, Quiver.Hom.unop_op]
+          right_inv y := (he.to ⟨_, y⟩).prop }
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Elements.lean]:
```suggestion
  homEquiv :=
    { toFun f := F.map f.op E.snd
      invFun y := (he.to ⟨_, y⟩).val.unop
      left_inv f := by
        have :=
          Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f.op E.snd⟩) ⟨f.op, rfl⟩)
        simp only [this, Quiver.Hom.unop_op]
      right_inv y := (he.to ⟨_, y⟩).prop }
```

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 6]
```diff
@@ -135,4 +131,57 @@ end Initial
...
+lemma isRepresentable.ofHasInitial (F : Cᵒᵖ ⥤ Type w) [HasInitial (Elements F)] :
+    IsRepresentable F where
+      has_representation :=
+        ⟨(⊥_ F.Elements).fst.unop,
+          (Nonempty.intro (RepresentableBy.ofIsInitial initialIsInitial))⟩
+
+theorem isRepresentable_iff_hasInitial (F : Cᵒᵖ ⥤ Type w) :
+    HasInitial (Elements F) ↔ IsRepresentable F where
+      mp _ := isRepresentable.ofHasInitial F
+      mpr _ := inferInstance
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Elements.lean]:
```suggestion
  mp _ := isRepresentable.ofHasInitial F
  mpr _ := inferInstance
```

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 7]
```diff
@@ -135,4 +131,57 @@ end Initial
...
+            have :=
+              Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f.op E.snd⟩) ⟨f.op, rfl⟩)
+            simp only [this, Quiver.Hom.unop_op]
+          right_inv y := (he.to ⟨_, y⟩).prop }
+
+lemma isRepresentable.ofHasInitial (F : Cᵒᵖ ⥤ Type w) [HasInitial (Elements F)] :
+    IsRepresentable F where
+      has_representation :=
+        ⟨(⊥_ F.Elements).fst.unop,
+          (Nonempty.intro (RepresentableBy.ofIsInitial initialIsInitial))⟩
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Elements.lean]:
```suggestion
  has_representation :=
    ⟨(⊥_ F.Elements).fst.unop,
      (Nonempty.intro (RepresentableBy.ofIsInitial initialIsInitial))⟩
```

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 8]
```diff
@@ -135,4 +131,57 @@ end Initial
...
+          left_inv f := by
+            have := Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f E.snd⟩) ⟨f, rfl⟩)
+            simpa using Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f E.snd⟩) ⟨f, rfl⟩)
+          right_inv y := (he.to ⟨_, y⟩).prop }
+
+lemma isCorepresentable.ofHasInitial (F : C ⥤ Type w) [HasInitial (Elements F)] :
+    IsCorepresentable F where
+      has_corepresentation :=
+        ⟨(⊥_ F.Elements).fst,
+          (Nonempty.intro (CorepresentableBy.ofIsInitial initialIsInitial))⟩
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Elements.lean]:
```suggestion
  has_corepresentation :=
    ⟨(⊥_ F.Elements).fst,
      (Nonempty.intro (CorepresentableBy.ofIsInitial initialIsInitial))⟩
```

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 9]
```diff
@@ -135,4 +131,57 @@ end Initial
...
+
+theorem isCorepresentable_iff_hasInitial (F : C ⥤ Type w) :
+    HasInitial (Elements F) ↔ IsCorepresentable F where
+      mp _ := isCorepresentable.ofHasInitial F
+      mpr _ := inferInstance
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Elements.lean]:
```suggestion
  mp _ := isCorepresentable.ofHasInitial F
  mpr _ := inferInstance
```

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 10]
```diff
@@ -135,4 +131,57 @@ end Initial
...
+corepresentation for that functor. -/
+def CorepresentableBy.ofIsInitial {F : C ⥤ Type w} {E : Elements F} (he : IsInitial E) :
+    CorepresentableBy F E.fst where
+      homEquiv :=
+        { toFun f := F.map f E.snd
+          invFun y := (he.to ⟨_, y⟩).val
+          left_inv f := by
+            have := Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f E.snd⟩) ⟨f, rfl⟩)
+            simpa using Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f E.snd⟩) ⟨f, rfl⟩)
+          right_inv y := (he.to ⟨_, y⟩).prop }
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Elements.lean]:
```suggestion
  homEquiv :=
    { toFun f := F.map f E.snd
      invFun y := (he.to ⟨_, y⟩).val
      left_inv f := by
        have := Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f E.snd⟩) ⟨f, rfl⟩)
        simpa using Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f E.snd⟩) ⟨f, rfl⟩)
      right_inv y := (he.to ⟨_, y⟩).prop }
```
Note that an alternative syntax (untested) should be
```suggestion
  homEquiv.toFun f := F.map f E.snd
  homEquiv.invFun y := (he.to ⟨_, y⟩).val
  homEquiv.left_inv f := by
    have := Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f E.snd⟩) ⟨f, rfl⟩)
    simpa using Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f E.snd⟩) ⟨f, rfl⟩)
  homEquiv.right_inv y := (he.to ⟨_, y⟩).prop
```

**Comment by emilyriehl** [comment]
@robin-carlier is the style `homEquiv.blah _ := _` preferred? If so I'll convert. And did I put the attribute that you suggested in the correct place?

**Comment by robin-carlier** [comment]
There is no official policy on the `homEquiv.blah _ := _` AFAICT.
I personally prefer it as it makes for less indentation and less `{ … }`, so feel free to pick whatever looks nicer to your eyes.

The attribute line is in the right place. As said, it will become unnecessary anyway.

**Comment by emilyriehl** [comment]
Maybe I'll leave it as is then, but I appreciate the suggestion. Let me know if you'd like further changes.

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 11]
```diff
@@ -135,4 +131,57 @@ end Initial
...
+/-- An initial object in the category `F.Elements` of a covariant functor defines a
+corepresentation for that functor. -/
+def CorepresentableBy.ofIsInitial {F : C ⥤ Type w} {E : Elements F} (he : IsInitial E) :
+    CorepresentableBy F E.fst where
+  homEquiv :=
+    { toFun f := F.map f E.snd
+      invFun y := (he.to ⟨_, y⟩).val
+      left_inv f := by
+        have := Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f E.snd⟩) ⟨f, rfl⟩)
+        simpa using Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f E.snd⟩) ⟨f, rfl⟩)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Elements.lean]:
```suggestion
      left_inv f := Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f E.snd⟩) ⟨f, rfl⟩)
```

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 12]
```diff
@@ -135,4 +131,55 @@ end Initial
 
 end CategoryOfElements
 
+namespace Functor
+
+attribute [local implicit_reducible] Quiver.Hom.op Quiver.Hom.unop
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Elements.lean]:
```suggestion
```
#42107 was merged so if you merge master this should not be necessary anymore

**Review by robin-carlier — COMMENTED** [review]
The build error is due to to #42107.
Rest LGTM so once you fix this line,

Thanks!
maintainer delegate

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 13]
```diff
@@ -135,4 +131,53 @@ end Initial
 
 end CategoryOfElements
 
+namespace Functor
+
+/-- An initial object in the category `F.Elements` of a covariant functor defines a
+corepresentation for that functor. -/
+def CorepresentableBy.ofIsInitial {F : C ⥤ Type w} {E : Elements F} (he : IsInitial E) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Elements.lean]: I am not sure about the names of the lemmas/definitions, because I because the names should include `Elements`. Maybe everything could be in the `Elements` namespace instead?

Comment (emilyriehl) [reply Mathlib/CategoryTheory/Limits/Elements.lean]: @joelriou I considered this before submitting the PR but the lemmas are proving properties of functors (representability) using the tool of the category of elements. The converse results (not proven here) instead prove results about the category of elements. Since this is a useful result about the co/representability of functors the `Functor` namespace made the most sense to me.

But I'll defer to you about naming. If you still think I should make a change, let me know and I will.

File: Mathlib/CategoryTheory/Limits/Elements.lean (hunk 12 above)
Comment (emilyriehl) [reply Mathlib/CategoryTheory/Limits/Elements.lean]: Done.

File: Mathlib/CategoryTheory/Limits/Elements.lean (hunk 13 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Elements.lean]: Out of context "initial object implies corepresentable" is not particularly clear, "initial object in the category of elements implies corepresentable" seems much clearer to me.
I would suggest naming this as `Functor.Elements.corepresentableByOfIsInitial`.

Comment (emilyriehl) [reply Mathlib/CategoryTheory/Limits/Elements.lean]: Based on this suggestion I've moved the entire section into the Functor.Elements namespace.

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 14]
```diff
@@ -135,4 +131,53 @@ end Initial
...
+corepresentation for that functor. -/
+def corepresentableByOfIsInitial {F : C ⥤ Type w} {E : Elements F} (he : IsInitial E) :
+    CorepresentableBy F E.fst where
+  homEquiv :=
+    { toFun f := F.map f E.snd
+      invFun y := (he.to ⟨_, y⟩).val
+      left_inv f := Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f E.snd⟩) ⟨f, rfl⟩)
+      right_inv y := (he.to ⟨_, y⟩).prop }
+
+lemma isCorepresentableOfHasInitial (F : C ⥤ Type w) [HasInitial (Elements F)] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Elements.lean]:
```suggestion
lemma isCorepresentable_of_hasInitial (F : C ⥤ Type w) [HasInitial (Elements F)] :
```

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 15]
```diff
@@ -135,4 +131,53 @@ end Initial
...
+    IsCorepresentable F where
+  has_corepresentation :=
+    ⟨(⊥_ F.Elements).fst,
+      (Nonempty.intro (corepresentableByOfIsInitial initialIsInitial))⟩
+
+theorem isCorepresentable_iff_hasInitial (F : C ⥤ Type w) :
+    HasInitial (Elements F) ↔ IsCorepresentable F where
+  mp _ := isCorepresentableOfHasInitial F
+  mpr _ := inferInstance
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Elements.lean]:
```suggestion
theorem hasInitial_iff_isCorepresentable (F : C ⥤ Type w) :
    HasInitial (Elements F) ↔ IsCorepresentable F where
  mp _ := isCorepresentable_of_hasInitial F
  mpr _ := inferInstance
```

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 16]
```diff
@@ -135,4 +131,53 @@ end Initial
...
+
+/-- An initial object in the category `F.Elements` of a contravariant functor defines a
+representation for that functor. -/
+def representableByOfIsInitial {F : Cᵒᵖ ⥤ Type w} {E : Elements F} (he : IsInitial E) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Elements.lean]:
```suggestion
def representableBy_of_isInitial {F : Cᵒᵖ ⥤ Type w} {E : Elements F} (he : IsInitial E) :
```

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 17]
```diff
@@ -135,4 +131,53 @@ end Initial
...
+  homEquiv :=
+    { toFun f := F.map f.op E.snd
+      invFun y := (he.to ⟨_, y⟩).val.unop
+      left_inv f := by
+        have :=
+          Subtype.ext_iff.mp (he.hom_ext (he.to ⟨_, F.map f.op E.snd⟩) ⟨f.op, rfl⟩)
+        simp only [this, Quiver.Hom.unop_op]
+      right_inv y := (he.to ⟨_, y⟩).prop }
+
+lemma isRepresentableOfHasInitial (F : Cᵒᵖ ⥤ Type w) [HasInitial (Elements F)] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Elements.lean]:
```suggestion
lemma isRepresentable_of_hasInitial (F : Cᵒᵖ ⥤ Type w) [HasInitial (Elements F)] :
```

File: Mathlib/CategoryTheory/Limits/Elements.lean [hunk 18]
```diff
@@ -135,4 +131,53 @@ end Initial
...
+    IsRepresentable F where
+  has_representation :=
+    ⟨(⊥_ F.Elements).fst.unop,
+      (Nonempty.intro (representableByOfIsInitial initialIsInitial))⟩
+
+theorem isRepresentable_iff_hasInitial (F : Cᵒᵖ ⥤ Type w) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Elements.lean]:
```suggestion
theorem hasInitial_iff_isRepresentable (F : Cᵒᵖ ⥤ Type w) :
```

**Comment by joelriou** [comment]
Thanks!

bors merge
